US07632840B2
3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-methylazetidine-3-carboxamide
The hydrochloride salt of 3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]azetidine-3-carboxamide Example 74 (100 mg, 0.19 mmol) and formaldehyde (51 μl of a 37% wt aqueous solution, 0.63 mmol) were stirred at room temperature in 5% acetic acid in 1,2-dichloroethane (2 ml) in the presence of 3 A molecular sieves. Sodium triacetoxyborohydride (89 mg, 0.42 mmol) was added portionwise over 0.5 hours. After the final addition the reaction mixture was concentrated under reduced pressure. The resulting product was purified on preparative HPLC (standard basic conditions) to give the title product (50 mg, 53%) as a white powder; 1H NMR Spectrum: (CDCl3) 2.41 (s, 3H), 2.45 (s, 3H), 3.35 (brs, 2H), 3.65 (d, 2H), 3.96-4.01 (m, 5H), 5.33 (brs, 1H), 7.15 (m, 2H), 7.25 (s, 1H), 7.47 (brs, 1H), 7.77 (brs, 1H), 7.98 (s, 1H), 8.55 (brs, 1H), 8.74 (s, 1H); Mass Spectrum: (M+H)+ 459.

reactant | 3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]azetidine-3-carboxamide | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CNC1)C(=O)N)C)OC)F | C21H22ClFN6O2
reactant | formaldehyde | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 0.42 mmol, 89 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-methylazetidine-3-carboxamide | 50 mg, 53% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CN(C1)C)C(=O)N)C)OC)F | C22H24ClFN6O2
